US04277498
EXAMPLE 24--Preparation of 2-Amino-N-(1,1-dimethylhexyl)acetamide hydrogen fumarate
To a solution of 2-methylheptan-2-ol (6.50 g.; 0.05 mole) in trifluoroacetic acid (20 ml) at -5° C. was added powdered methyleneaminoacetonitrile (3.40 g.; 0.05 mole) over 10 minutes. The slurry was allowed to warm to 10° C. and stirred until homogeneous (2 hours). After an additional 2 hours at 10° C., the reaction mixture was poured into water (100 ml) and the neutral material extracted with ether. The acid solution was basified with ammonia (pH 9-10) and the liberated base extracted into ether (3×80 ml). The combined extractswere dried over Na2SO4, filtered, and evaporated to dryness to give a colourless oil which was converted to the hydrogen fumarate salt, m.p. 156°-158° C.

reactant | 2-methylheptan-2-ol | 0.05 mole, 6.50 g | CC(C)(CCCCC)O | C8H18O
reactant | methyleneaminoacetonitrile | 0.05 mole, 3.40 g | C=NCC#N | C3H4N2
reactant | water | 100 ml | O | H2O
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Amino-N-(1,1-dimethylhexyl)acetamide hydrogen fumarate | C(\C=C\C(=O)O)(=O)O.NCC(=O)NC(CCCCC)(C)C | InChI=1S/C10H22N2O.C4H4O4/c1-4-5-6-7-10(2,3)12-9(13)8-11;5-3(6)1-2-4(7)8/h4-8,11H2,1-3H3,(H,12,13);1-2H,(H,5,6)(H,7,8)/b;2-1+
